US04711895
50 mg of 3-t-butyldimethylsilyloxy-2-chloro-5-(3,7-dimethyloctyl)-5-hydroxycyclopentene obtained in (1) above was dissolved in 1 ml of tetrahydrofuran, and 200 mg of tetrabutyl ammonium fluoride trihydrate was added. The mixture was stirred for 4 hours. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After filtration and concentration, 30 mg of a crude product of 1-chloro-3(3,7-dimethyloctyl)-3,5-dihydroxycyclopentene was obtained. The crude product was dissolved in 1 ml of dimethylformamide, and 100 mg of pyridinium dichromate was added. The mixture was stirred for 2 hours. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqeuous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After filtration and concentration, the residue was chromatographed on a silica gel column to give 14 mg (yield 40%) of 2-chloro-4 -(3,7-dimethyloctyl)-4-hydroxy-2-cyclopentenone.

reactant | tetrabutyl ammonium fluoride trihydrate | 200 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | pyridinium dichromate | 100 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Water | O | H2O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4 -(3,7-dimethyloctyl)-4-hydroxy-2-cyclopentenone | 14 mg, yield 40% | ClC=1C(CC(C1)(O)CCC(CCCC(C)C)C)=O | C15H25ClO2
